US08378104B2
Step A: 2-{(3,5-Bis(trifluoromethyl)phenyl}-7-chlorofuro[2,3-c]pyridine
In a three-neck flask was placed a mixture of 7-chloro-2-iodofuro[2,3-c]pyridine (1.00 g, 3.58 mmol), 3,5-bis(trifluoromethyl)phenyl boronic acid (0.92 g, 3.6 mmol), 1,4-dioxane/water (50 mL/10 mL) and K2CO3 (0.74 g, 5.38 mmol). After the suspension was degassed with nitrogen for 15 min, (PPh3)2PdCl2 (0.12 g, 0.17 mmol) was added and the mixture was degassed with nitrogen for 5 min. The resultant mixture was stirred at 50° C. for 48 h under nitrogen. The mixture was then cooled to RT and the solvent was evaporated to give a black residue, which was purified by flash chromatography (2% MeOH:DCM) to afford 965 mg (74%) of the title compound as a white crystalline. 1H NMR (300 MHz, CDCl3): δ 7.06 (s, 1H), 7.50 (m, 4H), 7.94 (dd, J=1.5 Hz, 2.4 Hz, 1H), 8.19 (d, J=5.1 Hz, 1H).

reactant | 7-chloro-2-iodofuro[2,3-c]pyridine | 3.58 mmol, 1.00 g | ClC=1N=CC=C2C1OC(=C2)I | C7H3ClINO
reactant | 3,5-bis(trifluoromethyl)phenyl boronic acid | 3.6 mmol, 0.92 g | FC(C=1C=C(C=C(C1)C(F)(F)F)B(O)O)(F)F | C8H5BF6O2
reactant | K2CO3 | 5.38 mmol, 0.74 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | (PPh3)2PdCl2 | 0.17 mmol, 0.12 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | 1,4-dioxane water | 50 mL | O1CCOCC1.O
product | (3,5-Bis(trifluoromethyl)phenyl}-7-chlorofuro[2,3-c]pyridine | 965 mg, 74% | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=CC=2C(=C(N=CC2)Cl)O1)(F)F | C15H6ClF6NO
